US07902367B2
Step 95a) 5-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]carbonylamino]piperidin-1-yl]-2-fluorobenzaldehyde
Using N-(piperidin-3-yl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide (238 mg, 0.709 mmol) and 3-formyl-4-fluorophenylboric acid (238 mg, 1.42 mmol), the same procedure was followed as in Example 2 to give 55.0 mg (17%) of the desired compound as a pale yellow powder.

reactant | N-(piperidin-3-yl)-2-(4-chlorophenyl)-4-methylthiazole-5-carboxamide | 0.709 mmol, 238 mg | N1CC(CCC1)NC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C16H18ClN3OS
reactant | 3-formyl-4-fluorophenylboric acid | 1.42 mmol, 238 mg | C(=O)C=1C=C(C=CC1F)OB(O)O | C7H6BFO4
product | 5-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]carbonylamino]piperidin-1-yl]-2-fluorobenzaldehyde | 55.0 mg, 17% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)NC1CN(CCC1)C=1C=CC(=C(C=O)C1)F | C23H21ClFN3O2S
